data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
989,1074,[CH3:16][N:17]=[O+:18][N-:19][C:20](=[O:21])[NH:22][CH3:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]#[C:8][C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]2=[C:8]([C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[N:19]([C:20](=[O:21])[NH:22][CH3:23])[O:18][N:17]2[CH3:16],water,298.15,31.46719532666675,-46.11142268656777
4720,5388,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([CH3:18])[CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[NH:16][C:17]2([CH3:18])[CH3:19],water,298.15,30.16159783395821,-1.208846283538689
962,1045,[CH3:14][C:15](=[O:16])[CH:17]=[O+:18][C-:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[CH:17]([C:15]([CH3:14])=[O:16])[O:18][C:19]3([C:20]#[N:21])[C:22]([CH3:23])=[O:24],water,298.15,6.371091723344114,-63.39463406012392
3774,4323,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[N-:11][N+:12]([CH3:13])=[CH:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:11]([C:9]([O:8][CH3:7])=[O:10])[N:12]([CH3:13])[CH:14]1[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,33.898066215317925,-6.434192694899522
2913,3239,[CH2:1]=[CH2:2].[CH3:3][CH-:4][N+:5]([CH3:6])=[CH:7][C:8]([CH3:9])=[O:10]>>[CH2:1]1[CH2:2][CH:4]([CH3:3])[N:5]([CH3:6])[CH:7]1[C:8]([CH3:9])=[O:10],water,298.15,17.955304707578865,-26.862623422154822
3093,3483,[CH3:9][NH:10][C:11](=[O:12])[N:13]=[NH+:14][NH-:15].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[NH:15][NH:14][N:13]1[C:11]([NH:10][CH3:9])=[O:12],water,298.15,30.78239341765436,-9.26315957362486
2422,2690,[CH3:18][NH:19][C:20](=[O:21])[C:22](=[NH+:23][C-:24]([C:25]([CH3:26])=[O:27])[C:28]([CH3:29])=[O:30])[C:31](=[O:32])[O:33][CH3:34].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[C:24]([C:25]([CH3:26])=[O:27])([C:28]([CH3:29])=[O:30])[NH:23][C:22]2([C:20]([NH:19][CH3:18])=[O:21])[C:31](=[O:32])[O:33][CH3:34],water,298.15,42.80301114765344,-4.947803520287169
680,740,[CH3:1][C:2]#[C:3][C:4]([F:5])([F:6])[F:7].[CH3:8][NH:9][C:10](=[O:11])[N-:12][N+:13]([CH3:14])=[C:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[N:12]([C:10]([NH:9][CH3:8])=[O:11])[N:13]([CH3:14])[C:15]1([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,31.34385357987176,-30.4220445546046
2912,3238,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6](=[O:7])[N:8]=[NH+:9][NH-:10]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[NH:10][NH:9][N:8]1[C:6]([CH3:5])=[O:7],water,298.15,28.71098024321285,-13.097360045472312
3537,4035,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[N-:13][N+:14]([CH3:15])=[C:16]([CH3:17])[C:18]#[N:19]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[N:13]([C:11]([NH:10][CH3:9])=[O:12])[N:14]([CH3:15])[C:16]2([CH3:17])[C:18]#[N:19],water,298.15,14.122438279441733,-12.088226579212972
1062,1158,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[O+:17][CH-:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[CH:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[O:17][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,5.77904204115647,-54.46746913765572
1846,2048,[CH3:13][O:14][C:15](=[O:16])[C-:17]([N+:18]#[C:19][C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:19]([C:20]([CH3:21])=[O:22])=[N:18][C:17]2([C:15]([O:14][CH3:13])=[O:16])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,18.100358529612844,-37.27638290164188
1754,1942,[CH3:12][C:13](=[O:14])[CH:15]=[N+:16]([CH3:17])[C-:18]([CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[CH:15]([C:13]([CH3:12])=[O:14])[N:16]([CH3:17])[C:18]3([CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,18.753109590388505,-35.482575685662205
